US04497817
To 700 ml of acetic acid was added 14 g of 2-(p-chlorophenyl)imidazo[2,1-b]benzothiazole and after adding thereto 5 g of sodium nitrite with stirring at room temperature, the mixture was stirred for 3 hours. Thereafter, 500 ml of water was added to the mixture and the crystals thus formed were recovered by filtration and washed with water, then n-hexane, and further with 400 ml of chloroform to provide 10 g of 2-(p-chlorophenyl)-3-nitrosoimidazo[2,1-b]benzothiazole. The product was recrystallized from chloroform to provide crystals having a melting point of 203°-206° C.

reactant | acetic acid | 700 ml | C(C)(=O)O | C2H4O2
reactant | 2-(p-chlorophenyl)imidazo[2,1-b]benzothiazole | 14 g | ClC1=CC=C(C=C1)C=1N=C2SC3=C(N2C1)C=CC=C3 | C15H9ClN2S
reactant | sodium nitrite | 5 g | N(=O)[O-].[Na+]
solvent | water | 500 ml | O | H2O
product | 2-(p-chlorophenyl)-3-nitrosoimidazo[2,1-b]benzothiazole | 10 g | ClC1=CC=C(C=C1)C=1N=C2SC3=C(N2C1N=O)C=CC=C3 | C15H8ClN3OS
